US09388161B2
Methanesulfonyl chloride (4 μL, 0.05 mmol) was added to a solution of (S)-1-(2-methyl-6-(piperidin-4-yl)-5-propoxy-3,4-dihydroquinolin-1(2H)-yl)ethanone (17.0 mg, 0.05 mmol) and triethylamine (0.02 mL, 0.14 mmol) in dichloromethane (1.0 mL), and the reaction stirred at room temperature overnight. The reaction solution was purified directly via column chromatography on silica gel (Biotage 10 g column, gradient elution with 10-0% hexanes in ethyl acetate) to afford (S)-1-(2-methyl-6-(1-(methylsulfonyl)piperidin-4-yl)-5-propoxy-3,4-dihydroquinolin-1(2H)-yl)ethan-1-one (14 mg, 72%) as a white solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 0.98-1.04 (m, 6H), 1.19-1.26 (m, 1H), 1.58-1.81 (m, 6H), 2.02 (s, 3H), 2.17-2.30 (m, 2H), 2.68-2.85 (m, 3H), 2.89 (s, 3H), 2.89-2.99 (m, 1H), 3.60-3.76 (m, 4H), 4.57 (br d, J=6.45 Hz, 1H), 7.09 (br s, 2H). MS (ESI, pos. ion) m/z 409 [M+H]+.

reactant | Methanesulfonyl chloride | 0.05 mmol, 4 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | (S)-1-(2-methyl-6-(piperidin-4-yl)-5-propoxy-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.05 mmol, 17.0 mg | C[C@@H]1N(C2=CC=C(C(=C2CC1)OCCC)C1CCNCC1)C(C)=O | C20H30N2O2
reactant | triethylamine | 0.14 mmol, 0.02 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
product | (S)-1-(2-methyl-6-(1-(methylsulfonyl)piperidin-4-yl)-5-propoxy-3,4-dihydroquinolin-1(2H)-yl)ethan-1-one | 14 mg, 72% | C[C@@H]1N(C2=CC=C(C(=C2CC1)OCCC)C1CCN(CC1)S(=O)(=O)C)C(C)=O | C21H32N2O4S
